US09315491B2
2-Chloro-4-morpholin-4-yl-pyrimidin-5-ol
A mixture of 4-(2-chloro-5-methoxy-pyrimidin-4-yl)-morpholine (5.0 g, 1.0 eq.) and CH2Cl2 (20 ml) was added dropwise to a slurry of aluminum chloride (23.22 g, 8.0 eq.) in CH2Cl2 (30 ml) in ice bath. After dropping, the resulting solution was stirred overnight at room temperature. The resultant mixture was extracted with EA and the combined organic layers were washed with brine and dried in vacuo to give a light yellow solid (4.18 g, 89.23%) as a product.

reactant | 4-(2-chloro-5-methoxy-pyrimidin-4-yl)-morpholine | 5.0 g, 1.0 eq. | ClC1=NC=C(C(=N1)N1CCOCC1)OC | C9H12ClN3O2
reactant | aluminum chloride | 23.22 g, 8.0 eq. | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-4-morpholin-4-yl-pyrimidin-5-ol | 4.18 g, 89.23% | ClC1=NC=C(C(=N1)N1CCOCC1)O | C8H10ClN3O2
